US08802064B2
6-Bromo-1-hydroxyisoquinoline (140 mg, 0.63 mmol, 1.0 equiv), tetrabutylammonium bromide (30 mg, 0.09 mmol, 0.15 equiv), and iodomethane (50 uL, 0.75 mmol, 1.2 equiv) were combined in toluene (10 mL) and treated with 50% aq. NaOH (2 mL), and the resulting was mixture stirred rapidly at ambient temperature. After an additional 14 h at room temperature, the mixture was diluted with diethyl ether and washed with water, saturated NaHCO3, and brine. The organic phase was dried over Na2SO4 and concentrated to give a white solid of 6-bromo-2-methylisoquinolin-1-one (104 mg, 0.44 mmol, 70%). This crude material was taken forward without further purification and converted, via Methods 1 and 2, to compound 1 (45 mg, 38%) and isolated as a beige solid. [M-H]-=202.1 m/z. Activity: B

reactant | 6-Bromo-1-hydroxyisoquinoline | 0.63 mmol, 140 mg, 1.0 equiv | BrC=1C=C2C=CN=C(C2=CC1)O | C9H6BrNO
reactant | iodomethane | 0.75 mmol, 50 uL, 1.2 equiv | IC | CH3I
reactant | NaOH | 2 mL | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 0.09 mmol, 30 mg, 0.15 equiv | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-bromo-2-methylisoquinolin-1-one | 0.44 mmol, 104 mg, 70% | BrC=1C=C2C=CN(C(C2=CC1)=O)C | C10H8BrNO
